US06593354B2
Ethyl 3-hydroxy-4-nitrophenylacetate
A solution of 3-hydroxy-4-nitrophenylacetic acid (4.0 g, prepared according to the procedure described by Meyer et al, J. Med. Chem., 1997, 40, pages 1049-1062) in ethanol (approximately 100 mL) was treated with concentrated hydrochloric acid (5-8 drops) was heated at reflux temperature for 3 hours then evaporated. The residue was dissolved in tert-butyl methyl ether and the solution was washed with saturated aqueous sodium bicarbonate solution, then with water, then dried, and then evaporated to give the title compound (5.0 g) as a light yellow solid.

reactant | 3-hydroxy-4-nitrophenylacetic acid | OC=1C=C(C=CC1[N+](=O)[O-])CC(=O)O | C8H7NO5
reactant | ethanol | approximately 100 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 5-8 drops | Cl | ClH
product | Ethyl 3-hydroxy-4-nitrophenylacetate | 5.0 g | OC=1C=C(C=CC1[N+](=O)[O-])CC(=O)OCC | C10H11NO5
